US03988458
Upon heating a solution of 7.8 g quinoline-4-aldehyde and 13.0 g amidinoacetic acid ethyl ester in 200 ml ethanol for 2 hours, 2,6-diamino-4-(quinol-4-yl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester of m.p. 145° (ethanol) is obtained.

reactant | quinoline-4-aldehyde | 7.8 g | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | amidinoacetic acid ethyl ester | 13.0 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2,6-diamino-4-(quinol-4-yl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Yield: 58% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=NC2=CC=CC=C12)C(=O)OCC)N)N | C20H22N4O4
